US09428509B2
4-((4-(3,3-Difluorocyclobutoxy)-5-(4-(methylcarbamoyl)phenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-(oxetan-3-yl)benzamide
Tetrabutylammonium fluoride (5 equiv) was added to a stirred solution of 4-((4-(3,3-difluorocyclobutoxy)-5-(4-(methylcarbamoyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-(oxetan-3-yl)benzamide (1 equiv) in THF (20 mL). The resulting mixture was capped and stirred at 50° C. for 16 h. The crude product was purified to afford the title compound (53.9% yield). 1H NMR (500 MHz, DMSO-d6) δ ppm 11.99 (s, 1H) 8.97 (d, J=6.62 Hz, 1H) 8.57 (d, 1H) 8.41 (d, J=4.41 Hz, 1H) 7.87 (d, J=10.09 Hz, 2H) 7.81 (d, 2H) 7.60 (d, 1H) 7.57-7.62 (m, 1H) 7.50 (d, J=2.21 Hz, 1H) 5.31-5.43 (m, 1H) 4.99-5.09 (m, 1H) 4.81 (t, J=6.94 Hz, 2H) 4.63 (t, J=6.31 Hz, 2H) 3.99 (s, 3H) 3.25 (br. s., 2H) 2.73-2.90 (m, 5H). MS (ESI) m/z 579.0 [M+1]+.

reactant | Tetrabutylammonium fluoride | 5 equiv | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4-((4-(3,3-difluorocyclobutoxy)-5-(4-(methylcarbamoyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-(oxetan-3-yl)benzamide | 1 equiv | FC1(CC(C1)OC=1C2=C(N=C(N1)NC1=C(C=C(C(=O)NC3COC3)C=C1)OC)N(C=C2C2=CC=C(C=C2)C(NC)=O)COCC[Si](C)(C)C)F | C35H42F2N6O6Si
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-((4-(3,3-Difluorocyclobutoxy)-5-(4-(methylcarbamoyl)phenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-(oxetan-3-yl)benzamide | 53.9% yield | FC1(CC(C1)OC=1C2=C(N=C(N1)NC1=C(C=C(C(=O)NC3COC3)C=C1)OC)NC=C2C2=CC=C(C=C2)C(NC)=O)F | C29H28F2N6O5
